US07713979B2
3-(4-Bromo-2-chloro-benzyl)-1-(cis-4-hydroxy-cyclohexyl)-pyrrolidin-2-one
Charge a flask with cis-1-[4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl]-pyrrolidin-2-one (Preparation 17) (1.0 g, 3.4 mmol), dissolve with THF (0.2 M) and cool to −78° C. Add LDA (1.1 to 1.5 eq) and stir at −78° C. for 5 minutes. Add 4-bromo-1-bromomethyl-2-chloro-benzene (1.4 g, 5.0 mmol) and warm to room temperature overnight. Dilute with methanol (0.2 M) and add concentrated HCl (10 eq.) and stir at room temperature. Pour into water after reaction complete by HPLC and extract with methylene chloride, dry over sodium sulfate, filter and concentrate in vacuo. Purify the residue over silica gel (20% hexane in ethyl acetate) to afford 911 mg (70%) of the title compound: Mass spectrum (apci) m/z=387.9 (M+H).

reactant | cis-1-[4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl]-pyrrolidin-2-one | 3.4 mmol, 1.0 g | C(C)(C)(C)[Si](O[C@H]1CC[C@H](CC1)N1C(CCC1)=O)(C)C | C16H31NO2Si
reactant | LDA | 1.1 to 1.5 eq | [Li+].CC(C)[N-]C(C)C
reactant | 4-bromo-1-bromomethyl-2-chloro-benzene | 5.0 mmol, 1.4 g | BrC1=CC(=C(C=C1)CBr)Cl | C7H5Br2Cl
reactant | HCl | 10 eq. | Cl | ClH
solvent | methanol | 0.2 M | CO | CH4O
solvent | water | O | H2O
solvent | THF | 0.2 M | C1CCOC1 | C4H8O
product | 3-(4-Bromo-2-chloro-benzyl)-1-(cis-4-hydroxy-cyclohexyl)-pyrrolidin-2-one | 911 mg, 70% | BrC1=CC(=C(CC2C(N(CC2)[C@@H]2CC[C@@H](CC2)O)=O)C=C1)Cl | C17H21BrClNO2
